US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-(2-methylphenyl)benzoate (0.10 g) in methanol (2.0 mL) and ethyl acetate (2.0 mL), 10% palladium-carbon (0.020 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 45 minutes. The insoluble substance was removed by filtration, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 99-91% hexane/ethyl acetate] to obtain 0.063 g of tert-butyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-4-(2-methylphenyl)benzoate as a yellow solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-(2-methylphenyl)benzoate | 0.10 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)C)C=C(C=C1)N1CCCCC1 | C37H40N2O4
solvent | methanol | 2.0 mL | CO | CH4O
solvent | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.020 g | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-4-(2-methylphenyl)benzoate | 0.063 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)C)C=C(C=C1)N1CCCCC1 | C30H34N2O4
